US04314944
A 10 ml portion of constant boiling hydrobromic acid (48%) was dissolved from stannous chloride directly into the reaction vessel. To this was added 0.533 g (1.76 mmole) of 4-(2-aminoethyl)-7-methoxy-2(3H)-indolone hydrobromide and the reaction was stirred at reflux under argon for 3 hours then allowed to cool to room temperature. After being stored at 0° overnight, the reaction mixture was filtered. The solid was washed with cold methanol to give 0.40 g (83%) of 4-(2-aminoethyl)-7-hydroxy-2(3H)-indolone hydrobromide as a straw-brown solid. This material began to decompose with darkening at 250°.

reactant | hydrobromic acid | Br | BrH
reactant | 4-(2-aminoethyl)-7-methoxy-2(3H)-indolone hydrobromide | 1.76 mmole, 0.533 g | Br.NCCC1=C2CC(NC2=C(C=C1)OC)=O
product | 4-(2-aminoethyl)-7-hydroxy-2(3H)-indolone hydrobromide | 0.40 g, 83% | Br.NCCC1=C2CC(NC2=C(C=C1)O)=O | InChI=1S/C10H12N2O2.BrH/c11-4-3-6-1-2-8(13)10-7(6)5-9(14)12-10;/h1-2,13H,3-5,11H2,(H,12,14);1H
